US08168637B2
Step A. 8-Chloro-3-ethyl-1,2,4-triazolo[4,3-a]pyrazine
To 3-chloro-2-hydrazinopyrazine (3.0 g, 20.75 mmol), prepared from 2,3-dichloropyrazine and hydrazine using a procedure analogous to that described in the literature (Huynh-Dinh et al, J. Org. Chem. 1979, 44, 1028), was added 8 mL of triethyl orthopropionate. After refluxing for 10 h, the reaction was cooled down to ambient temperature and the precipitate was filtered. The solid was purified by flash chromatography (100% ethyl acetate, then 10% methanol in ethyl acetate) to give 2.73 g of the title compound as a solid. 1H NMR (500 MHz, CDCl3) δ 1.54 (t, 3H, J=7.6 Hz), 3.16 (q, 2H, J=7.8 Hz), 7.70 (d, 1H, J=4.5 Hz), 7.83 (d, 1H, J=4.8 Hz).

reactant | 3-chloro-2-hydrazinopyrazine | 20.75 mmol, 3.0 g | ClC=1C(=NC=CN1)NN | C4H5ClN4
reactant | 2,3-dichloropyrazine | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | hydrazine | NN | H4N2
reactant | triethyl orthopropionate | 8 mL | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 8-Chloro-3-ethyl-1,2,4-triazolo[4,3-a]pyrazine | 2.73 g | ClC=1C=2N(C=CN1)C(=NN2)CC | C7H7ClN4
